### PR TITLE
feat: bitvec_AddSub_1152 proof

### PR DESCRIPTION
**Pull request by eurquhart1**

### CODE REVIEW

File: SSA/Projects/InstCombine/ForLean.lean [hunk 1]
```diff
@@ -205,6 +216,11 @@ theorem udiv_one_eq_zero (a : BitVec w) (h : a > 1)
       assumption
     rw [Nat.div_eq_zero_iff] <;> omega
 
+lemma add_eq_xor (a b : BitVec 1) : a.add b = a.xor b := by
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean:219]: Reflecting on this, we can probably make this a simple lemma. xor on individual bits seems more canonical than adding over individual bits.

File: SSA/Projects/InstCombine/ForLean.lean [hunk 2]
```diff
@@ -3,6 +3,17 @@ import SSA.Projects.InstCombine.ForMathlib
...
+#check BitVec.sshiftRight
+
+-- a3 a2 a1 a0 >> 2
+-- 0 0 a3 a2  [0]
+lemma BitVec.getLsb_sshiftRight (a : BitVec w) (s : Nat) : (a.sshiftRight s).getLsb i =
+   if (i + s ≥ w) then (a.getMsb 0) else a.getLsb (s + i) :=
+  by sorry
+-- bitvec_AddSub_1152
+
+#print propext
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean:15]: Should we drop this one?

File: SSA/Projects/InstCombine/ForLean.lean [hunk 3]
```diff
@@ -3,6 +3,17 @@ import SSA.Projects.InstCombine.ForMathlib
 import SSA.Projects.InstCombine.LLVM.Semantics
 import Mathlib.Tactic
 
+#check BitVec.sshiftRight
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean:6]: Should we drop this one?

**Review by tobiasgrosser — APPROVED** [review]
This looks great. I am almost wondering if we just want to leave the getLsb_sshiftRight out in this PR, such that the other stuff can already be merged.

Thank you @eurquhart1 for your first PR!

File: SSA/Projects/InstCombine/ForLean.lean [hunk 4]
```diff
@@ -3,6 +3,17 @@ import SSA.Projects.InstCombine.ForMathlib
...
+
+-- a3 a2 a1 a0 >> 2
+-- 0 0 a3 a2  [0]
+lemma BitVec.getLsb_sshiftRight (a : BitVec w) (s : Nat) : (a.sshiftRight s).getLsb i =
+   if (i + s ≥ w) then (a.getMsb 0) else a.getLsb (s + i) :=
+  by sorry
+-- bitvec_AddSub_1152
+
+#print propext
+
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean:16]:
```suggestion
```

Let's focus on one lemma per PR, in this case  `add_eq_xor`. If we drop this wip-code, we can already push this PR and have one more theorem proven. If we do this, the PR of this title also should be updated.

File: SSA/Projects/InstCombine/ForLean.lean (hunk 1 above)
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean:219]:
```suggestion
@[simp]
lemma add_eq_xor (a b : BitVec 1) : a.add b = a.xor b := by
```

Reflecting on this, we can probably make this a simple lemma. xor on individual bits seems more canonical than adding over individual bits.
